US06825188B2
f) 2-[N-(tert-Butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxydihydrocinnamic acid
To a stirred solution of methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxydihydrocinnamate (43.71 g, 108 mmol) in dioxane (200 mL) was added aqueous 1 N NaOH (130 mL, 130 mmol). The cloudy reaction was stirred at RT for 4 h. The resulting a homogeneous solution was neutralized with 1 N HCl (130 mL, 130 mmol) and extracted with ethyl acetate (2×250 mL). The combined organic layers were washed with brine (250 mL), dried (MgSO4), and concentrated to give the title compound (45.01 g, 100%) as a thick clear oil: TLC (95:4:1 CHCl3, MeOH, HOAc) Rf 0.49.

reactant | methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxydihydrocinnamate | 108 mmol, 43.71 g | C(C)(C)(C)OC(=O)N(CC(F)(F)F)CC1=C(CCC(=O)OC)C=CC(=C1)OC | C19H26F3NO5
reactant | NaOH | 130 mmol, 1 N, 130 mL | [OH-].[Na+]
reactant | HCl | 130 mmol, 1 N, 130 mL | Cl | ClH
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 2-[N-(tert-Butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxydihydrocinnamic acid | 45.01 g, 100% | C(C)(C)(C)OC(=O)N(CC(F)(F)F)CC1=C(CCC(=O)O)C=CC(=C1)OC | C18H24F3NO5
